US07297704B2
(6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)acetonitrile
To a suspension of the crude toluene-4-sulfonic acid 6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl-methyl ester (9.827 g, 0.0263 mol) in ethanol (70 mL) was added solid sodium cyanide (49.01 g, 0.0447 mol). The mixture was stirred at gentle reflux for 16 hours. Following TLC, a small amount of additional sodium cyanide was added and heating resumed for 2 hours. Most of the solvent was removed under reduced pressure (ca 55 mL). The residue was slurried in water (70 mL) and extracted with diethyl ether (3×). The extracts were washed with water and brine, and dried over anhydrous magnesium sulfate. Removal of the solvent provided a mustard colored solid which was purified by flash chromatography on silica gel Merck-60 using a gradient from 8:2 to 1:1 of ethyl acetate in hexane. The desired title compound was obtained as a yellow oil that solidifies in vacuo to yield light yellow crystals (5.2 g), m.p. 136-138° C. MS (ES): [M−H]− @m/z 227.1.

reactant | toluene-4-sulfonic acid 6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl-methyl ester | 0.0263 mol, 9.827 g | FC=1C=C2C=3CC(CCC3NC2=CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C20H20FNO3S
reactant | sodium cyanide | 0.0447 mol, 49.01 g | [C-]#N.[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | (6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)acetonitrile | FC=1C=C2C=3CC(CCC3NC2=CC1)CC#N | C14H13FN2
